US06258833B1
Preparation of (E)-3-(3-Cyclopentoxy-4-methoxyphenyl)-2-methyl-acrylic Acid
A suspension of (E)-3-(3-cyclopentoxy-4-methoxyphenyl)-2-methyl-acrylic acid ethyl ester (30 g, 98.6 mmol) and LiOH·H2O (lithium hydroxide hydrate) (5.0 g, 119.2 mmol, 1.2 equiv.) in methanol-water (4:1, 100 mL) was stirred at room temperature for 24 hours. Methanol was removed under reduced pressure and the resulting residue was dissolved in water (100 mL), washed with three 100 mL portions of ethyl acetate, neutralized with 1.0 N HCl (hydrochloric acid) (100 mL), and extracted with two 150 mL portions of ethyl acetate. The extract was washed with brine, dried over anhydrous Na2SO4 (sodium sulfate), and concentrated under reduced pressure to afford the desired product as a light yellow powder (18.2 g, 66% yield). 1H NMR (300 MHz, CDCl3) δ (ppm): 12.4 (br. s, 1H, COOH), 7.56 (s, 1H, olefinic), 7.04 (m, 3H, aromatic), 4.81 (m, 1H), 3.78 (s, 3H, OCH3), 2.06 (s, 3H, CH3), 1.91-1.57 (m, 8H, cyclopentyl).

reactant | (E)-3-(3-cyclopentoxy-4-methoxyphenyl)-2-methyl-acrylic acid ethyl ester | 98.6 mmol, 30 g | C(C)OC(\C(=C\C1=CC(=C(C=C1)OC)OC1CCCC1)\C)=O | C18H24O4
reactant | LiOH·H2O | 119.2 mmol, 5.0 g, 1.2 equiv. | O[Li].O
solvent | methanol water | 100 mL | CO.O
product | (E)-3-(3-Cyclopentoxy-4-methoxyphenyl)-2-methyl-acrylic Acid | 18.2 g, 66% yield | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C(/C(=O)O)\C | C16H20O4
